US03991202
1-[2,4-Dichloro-β-(2,4-dichlorobenzyloxy)phenethyl]-3-(p-methylbenzyl)imidazolium bromide;
mp. 152.2° C., by the reaction of 1-[2,4-dichloro-β-(2,4-dichlorobenzyloxy)phenethyl]-imidazole and p-methylbenzyl bromide.

reactant | 1-[2,4-dichloro-β-(2,4-dichlorobenzyloxy)phenethyl]-imidazole | ClC1=C(C(CN2C=NC=C2)OCC2=C(C=C(C=C2)Cl)Cl)C=CC(=C1)Cl | C18H14Cl4N2O
reactant | p-methylbenzyl bromide | CC1=CC=C(CBr)C=C1 | C8H9Br
product | 1-[2,4-Dichloro-β-(2,4-dichlorobenzyloxy)phenethyl]-3-(p-methylbenzyl)imidazolium bromide | [Br-].ClC1=C(C(C[N+]2=CN(C=C2)CC2=CC=C(C=C2)C)OCC2=C(C=C(C=C2)Cl)Cl)C=CC(=C1)Cl | InChI=1S/C26H23Cl4N2O.BrH/c1-18-2-4-19(5-3-18)14-31-10-11-32(17-31)15-26(23-9-8-22(28)13-25(23)30)33-16-20-6-7-21(27)12-24(20)29;/h2-13,17,26H,14-16H2,1H3;1H/q+1;/p-1
